US07723331B2
a) tert-Butyl 4-[(6-cyanopyridin-2-yl)oxy]piperidine-1-carboxylate
6-Bromo-2-pyridinecarbonitrile (1.00 g, 5.46 mmol), tert-butyl 4-hydroxypiperidine-1-carboxylate (1.10 g, 5.46 mmol), Pd(OAc)2 (61 mg, 0.27 mmol), 2-(di-t-butylphosphino)biphenyl (98 mg, 0.328 mmol) and Cs2(CO3) (3.56 g, 10.93 mmol) were mixed in toluene (20 ml). The reaction was stirred under an N2 atmosphere and heated to 130° C. on an oil bath for 24 h. The solvent was evaporated in vacuo and the remaining separated between EtOAc (500 ml) and water (500 ml). The aqueous phase was extracted with EtOAc (500 ml). The combined organic phases were washed with water (500 ml), dried with Na2SO4 (s), filtered and evaporated in vacuo. Purification by silica gel flash chromatography using a 40 g Biotage column with a gradient of 5-30% EtOAc in heptane giving the title compound as a white solid. Yield: 605 mg (37%). 1H NMR (400 MHz, CDCl3) δ 7.63 (dd, 1H, J=8.4 Hz, J=7.3 Hz), 7.25 (d, 1H, J=7.3 Hz), 6.90 (d, 1H, J=8.4 Hz), 5.21 (m, 1H), 3.74 (m, 2H), 3.25 (m, 2H), 1.95 (m, 2H), 1.68 (m, 2H), 1.44 (s, 9H).

reactant | 6-Bromo-2-pyridinecarbonitrile | 5.46 mmol, 1.00 g | BrC1=CC=CC(=N1)C#N | C6H3BrN2
reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | 5.46 mmol, 1.10 g | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | 2-(di-t-butylphosphino)biphenyl | 0.328 mmol, 98 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.27 mmol, 61 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | tert-Butyl 4-[(6-cyanopyridin-2-yl)oxy]piperidine-1-carboxylate | C(#N)C1=CC=CC(=N1)OC1CCN(CC1)C(=O)OC(C)(C)C | C16H21N3O3
